US07947738B2
(1-b) Tert-butyl(±)-(1S,5R)bicyclo[3.2.0]hept-3-en-6-ylideneacetate
Oxalyl chloride (10 mL) was added dropwise to a toluene solution (60 mL) of (2E)-hepta-2,6-dienoic acid (3.27 g, 25.9 mmol) under ice cooling. The mixture was stirred for 20 minutes, then removed from the ice water bath, and gradually heated to room temperature. After stirring for 50 minutes, the reaction solution was stirred for 1 hour under heating to reflux. The solution was allowed to cool, and the solvent was then distilled off under reduced pressure. To the residue, toluene was further added, and the solvent was then distilled off again under reduced pressure. The residue was dissolved in toluene (20 mL), and this solution was added dropwise over 1 hour to a toluene solution (20 mL) of triethylamine (9.19 g, 91 mmol) heated in advance to 90° C. After completion of the dropwise addition, the mixture was further heated with stirring for 2 hours. The reaction solution was cooled, then diluted with saturated saline and water, and filtered through Celite. The filtrate was separated into organic and aqueous layers. The organic layer was then washed with 1 N hydrochloric acid, then dried over magnesium sulfate, and filtered. This filtrate was added to a reaction solution prepared in advance from a dimethoxyethane solution (20 mL) of tert-butyl dimethoxyphosphorylacetate (5.98 g, 25.9 mmol) and sodium hydride (>65% oil, 986.7 mg, 25.9 mmol), and the mixture was stirred for 1.5 hours. To the reaction solution, a saturated aqueous solution of ammonium chloride, saturated saline, and water were added in this order, and the reaction solution was subjected to extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then filtered. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain the compound of interest as a pale yellow oil substance (1.73 g, 32%, E/Z mixture).

reactant | Oxalyl chloride | 10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2E)-hepta-2,6-dienoic acid | 25.9 mmol, 3.27 g | C(\C=C\CCC=C)(=O)O | C7H10O2
reactant | triethylamine | 91 mmol, 9.19 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyl dimethoxyphosphorylacetate | 25.9 mmol, 5.98 g | COP(=O)(OC)CC(=O)OC(C)(C)C | C8H17O5P
reactant | sodium hydride | 25.9 mmol, 986.7 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | dimethoxyethane | 20 mL | C(OC)COC | C4H10O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | Tert-butyl(±)-(1S,5R)bicyclo[3.2.0]hept-3-en-6-ylideneacetate | [C@H]12CC=C[C@@H]2C(C1)=CC(=O)OC(C)(C)C | C13H18O2
